2122-07-23 05:53:00 Physician Attending Progress Note
Chief Complaint: Cardiac arrest, bradycardia, seizure, acute
   respiartory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 year old man with hx of CAD. Lives in nursing home. Was observed to
   have seizure yesterday. Given ativan at the nursing home; was post
   ictal for 10 mins and question of left sided weakness. Admitted to
   neuro. Head CT negative. Electroytes were normal.
   Early this AM, paitent had cardiac arrest. Nursing did chest
   compression for one minute; HR reportedly 30. First blood pressure
   noted by physicians was 150 systolic and he had sinus brady with HR
   40-50. Patient intubated for agonal breathing. Was given atropine with
   improved HR. Transferred to MICU where BP has been stable with good O2
   sats.
   ABG 7.23/70/151 with lactate 8.6 during arrest (pre-intubation). Later
   this morning, ABG:  7.45/45/191 on 50% oxygen with lactate < 2.
   24 Hour Events:
   Past Hx:
   CAD
   Hypertension
   COPD
   ostoporosis
   prpstate hypertrophy
   demenstia
   SH: < 1ppd X 50 years; EtoH: social
 INVASIVE VENTILATION - START [**2122-7-23**] 02:26 AM
 ARTERIAL LINE - START [**2122-7-23**] 04:00 AM
 MULTI LUMEN - START [**2122-7-23**] 05:13 AM
   History obtained from Patient
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-23**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 63) bpm
   BP: 196/75(122) {196/75(122) - 196/75(122)} mmHg
   RR: 18 (14 - 18) insp/min
   SpO2: 100%
             Total In:
             25 mL
   PO:
             TF:
   IVF:
   25 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -375 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/45/191/27/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Eyes deviated upward
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic), II/VI
   systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed. Right toe upgoing. Left
   normal.
   Labs / Radiology
   129 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
        [image002.jpg]
                             [**2122-7-23**]  02:02 AM
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
   Cr
   0.7
   TCO2
   31
   32
   Glucose
   129
   Other labs: CK / CKMB / Troponin-T:72//, ALT / AST:[**8-20**], Alk Phos / T
   Bili:40/0.6, Differential-Neuts:32.8 %, Band:0.0 %, Lymph:61.1 %,
   Mono:4.9 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   ECG: ECG: NSR. ST scooping I, AVL with T wave inversion V5-V6. Possible
   old IMI. No old ECG for comparison.
   CXR: no effusions or infiltates.
   Assessment and Plan
   CARDIAC ARREST
   ACUTE RESPIRATORY FAIULRE
   ANEMIA
   SEIZURE
   BARDYCADIA
   =================
   Patient with apparent bradycardic arrest; at worst pulse/BP absent for
   1 minute or less. Cause of arrest unclear, but vagal stimulus a
   consideration. Patient remains relatively bradycardic now, however,
   suggesting sinus nodal disease. Inferior ischemia also a consideration
   in light of ECG with possible old IMI. Patient has been on atenolol at
   the nursing home; possible that he received too much medication.
   Intracranial hypertension may cause bradycardia/hypertension, but CT
   was negative on admission. Deviation of eyes now suggest possible
   stroke. Would consider MRI/MRA. Patient also due for EEG. Obtain
   cardiac enzymes. Metabolic acidosis at time of arrest may be more
   indicative of seizure at the beginning of the arrest given that patient
   was not hyptensive for very long. Place transcutaneous pacer pads.
   Replete potassium.
   Patient somewhat hypertensive now. [**Month (only) 8**] be related to agitation. Will
   switch ventilator to PSV from assit control. If BP remains elevated,
   consider adding back his ACE inhibitor. Target BP would be 140-160
   sytolic. Avoid hypotension with possible CVA. [**Month (only) 8**] be able to extubate
   post MRI.
   Hct is down consistent with prior hx of anemia. No evidence of blood
   loss. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2122-7-23**] 03:56 AM
   Arterial Line - [**2122-7-23**] 04:00 AM
   Multi Lumen - [**2122-7-23**] 05:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-07-23 06:25:00 Physician Resident Progress Note
Chief Complaint: The patient is a 80y/o M with a PMH of CAD, HTN, PVD,
   COPD admitted to neurology service for new onset seizure now
   transferred to MICU following bradycardic arrest. Per admission note,
   the patient lives at a NH and was found to have leftward eye deviation
   after eating breakfast this am, followed by generalized tonic-clonic
   activity. Unclear duration of symptoms. He was given 1mg Ativan, was
   noted to have incontinence of bowel and bladder, however this is his
   baseline. Reported to be post-ictal for approx 10 minutes with minimal
   verbal output. There was question of L sided weakness at this time.
   There is no previous history of seizure.
   .
   He was admitted to neurology service with preliminary workup including
   Head CT negative. On the evening of transfer, Code Blue was called at
   approx. 2am for asystole. Chest compressions were briefly administered
   (~1min) prior to code team arrival. Per report the patient had
   bradycardia followed by asystole with spontaneous return of
   circulation. The patient was intubated for agonal breathing. 2PIV and L
   femoral line were placed. He received 2mg ativan without response. The
   patient was given 1mg atropine for bradycardia to rate of the 30s with
   improvement in HR to 70s. BP stable throughout. ECG without ischemic
   changes. He is now transferred to the MICU for further management.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-7-23**] 02:26 AM
 ARTERIAL LINE - START [**2122-7-23**] 04:00 AM
 MULTI LUMEN - START [**2122-7-23**] 05:13 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Home Medications:
   actonel 35 mg Qweek
   Klonopin 0.25 mg Qday
   Depakote 500/750 mg [**Hospital1 **]
   Lactulose 30 mL [**Hospital1 **]
   Albuterol nebs Q6hrs
   Aricept 10 mg QHS
   Flomax 0.4 mg Qday
   Mirtazapine 7.5 mg QHS
   Senna 2 tabs QHS
   Zocor 10 mg Qday
   Colace 100 mg Qday
   iron 325 mg Qday
   Lisinopril 10 mg Qday
   Omeprazole 20 mg Qday
   Atenolol 50 mg [**Hospital1 **]
   MVI Qday
   Flovent 2 puffs [**Hospital1 **]
   Bisacodyl PRN
   Tylenol PRN
   NTG 0.4 mg SL PRN
   .
   Medications on Transfer:
   Clonazepam 0.25 mg PO DAILY
   Divalproex (DELayed Release) 500 mg PO QAM
   Divalproex (DELayed Release) 750 mg PO QHS
   Donepezil 10 mg PO QHS
   Albuterol 0.083% Neb Soln 1 NEB IH Q6H
   Tamsulosin 0.4 mg PO DAILY
   Mirtazapine 7.5 mg PO QHS
   Senna 2 TAB PO QHS
   Simvastatin 10 mg PO DAILY
   Docusate Sodium 100 mg PO DAILY
   Ferrous Sulfate 325 mg PO DAILY
   Lisinopril 10 mg PO DAILY
   Omeprazole 20 mg PO DAILY
   Atenolol 50 mg PO BID
   Multivitamins 1 TAB PO DAILY
   Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   Bisacodyl 10 mg PO/PR DAILY:PRN constipation
   Acetaminophen 325-650 mg PO Q6H:PRN pain, fever
   Nitroglycerin SL 0.4 mg SL PRN angina
   Changes to medical and family history:
   Past medical history:
   Family history:
   Social History:
   CAD
   COPD
   B/L hip fx and R hip replacement
   BPH w/ obstructive uropathy
   Mood d/o
   PVD
   Osteoporosis
   HTN
   GERD
   Anemia
   Mild dementia
   Per admission note denies including specifically any hx of seizure
   Occupation:
   Drugs:
   Tobacco:
   Alcohol:
   Other: (+) tobacco, 5 cigarettes per day x 60 years, quit 1 yr ago.
   Social EtOH. No drugs. Formerly in Marines. Now lives at [**Location **]
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-23**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 54 (53 - 63) bpm
   BP: 187/67(110) {177/67(105) - 196/75(122)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 100%
             Total In:
             38 mL
   PO:
             TF:
   IVF:
   38 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -462 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/45/191/27/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: cachectic
   Eyes / Conjunctiva:fixed, pinpoint pupils on admission,this am, round
   reactive to light.
   Moves all extremities spontaneously, reacts to painful stimuli.
   Cardiovascular: distant heart sounds, RRR, no MRG, S1 S2 clear
   Respiratory / Chest: CTA B through anterior and lateral lung fields, No
   WRRAbdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: BL extremity edema, geographic
   Skin:  Warm,
   Neurologic:  Right toe upgoing
   Labs / Radiology
   129 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
        [image002.jpg]
                             [**2122-7-23**]  02:02 AM
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
   Cr
   0.7
   TCO2
   31
   32
   Glucose
   129
   Other labs: CK / CKMB / Troponin-T:72//, ALT / AST:[**8-20**], Alk Phos / T
   Bili:40/0.6, Differential-Neuts:32.8 %, Band:0.0 %, Lymph:61.1 %,
   Mono:4.9 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 BRADYCARDIA
   Assessment and Plan
   Assessment & Plan:  80y/o M with a PMH of CAD, HTN, PVD, COPD admitted
   to neurology service for new onset seizure now transferred to MICU
   following bradycardic arrest.
   .
   # Bradycardia - Pt had evidence of sinus bradycardia prior to becoming
   hypotensive. Currently with HR 40-50. No clear evidence of ischemia.
   Could consider additional causes of bradycardia including
   hypothyroidism (TSH 6.3)***, neurologic (such as ICP), associated with
   increased vagal tone, heightened parasympathetic, withdrawal sympa as
   with valsalva, micturition, cough, sick sinus syndrome, metabolic in
   particular K+ (lytes currently WNL), medication overdose (atenolol),
   donepezil.  Lactic acidosis to 8.6 resolved this am, perhaps during
   hypotension, may have underlying subclinical brady/hypotension, finally
   resulting in this episode. No leukocytosis, fever to invoke infection.
   - Trended CE: 1^st set 0.01 and no EKG changes
   - Repeat ECG this morning is unchanged.
   - Hold atenolol
   - Check TTE
   - Head imaging with MRI in am
   .
   # Seizure - Per neurology concern given for complex partial seizure
   with secondary generalization and subsequent mild [**Doctor Last Name 6180**] paralysis on
   admission. Pt was not on monitoring so it is unclear if seizure was an
   inciting event code blue
   - EEG in am
   - Head MRI/MRA in am
   - appreciate neuro recs
   - continue midazolam for sedation
   .
   # Hypercarbic Respiratory Failure - PCO2 70 in the setting of
   bradycardia, low respiratory rate. Now resolved with gas this am:7.45
                                     pH
                                    7.23
                                    pCO2
                                     70
                                     pO2
                                     152
                                    HCO3
                                     31
                                   BaseXS
                                      0
                                    7.45
                                    pCO2
                                     45
                                     pO2
                                     191
                                    HCO3
                                     32
                                   BaseXS
                                      7
   -CXR y/d showed odd reflection. ***
   - Will transition to PSV, RSBI in am.
   - If MRI scheduled for early am, plan to extubate following imaging
   study
   .
   # CAD - unclear history of CAD
   - CE neg [**Name (NI) 4918**]
   - Repeat ECG in am
   - Obtain TTE
   .
   # COPD - Per report Pt has a history of COPD, had evidence of CO2
   retention during Code blue event however this was most likely secondary
   to decreased respiratory rate in setting of seizure vs bradycardic
   event
   .
   # FEN - NPO for now, replete K to 4 and Mg to 2
   .
   # Access - L femoral line (placed in Code) 3PIV
   .
   # Code - Full
   .
   # Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:  NPO
   Lines:
   18 Gauge - [**2122-7-23**] 03:56 AM
   Arterial Line - [**2122-7-23**] 04:00 AM
   Multi Lumen - [**2122-7-23**] 05:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  bundle
   Comments:
   Communication:  Patient discussed on interdisciplinary roundsComments:
   Code status: Full Code
   Disposition:ICU

2122-07-23 08:47:00 Physician Attending Progress Note
Chief Complaint: bradycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-7-23**] 02:26 AM
 ARTERIAL LINE - START [**2122-7-23**] 04:00 AM
 MULTI LUMEN - START [**2122-7-23**] 05:13 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-7-23**] 06:00 AM
   Other medications:
   SC hep, MVI, Folate, Coalce/Senna, Mirtazapione, Tamsulosin, Albuterol,
   Donepazil. Valproate, chlorhex, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-23**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 54 (53 - 63) bpm
   BP: 187/67(110) {177/67(105) - 196/75(122)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
             144 mL
   PO:
             TF:
   IVF:
   144 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -356 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/45/191/27/7
   Ve: 5.1 L/min
   PaO2 / FiO2: 478
   Physical Examination
   Gen: cachetic
   HEENT: pupils reactive
   CV:
   Chest
   Abd
   Ext
   Labs / Radiology
   129 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
        [image002.jpg]
                             [**2122-7-23**]  02:02 AM
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
   Cr
   0.7
   TCO2
   31
   32
   Glucose
   129
   Other labs: CK / CKMB / Troponin-T:72//, ALT / AST:[**8-20**], Alk Phos / T
   Bili:40/0.6, Differential-Neuts:32.8 %, Band:0.0 %, Lymph:61.1 %,
   Mono:4.9 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 BRADYCARDIA
   Patient with hypotension without evidence of aortic dissection. On exam
   has warm extremities with good capillary refill, which argues against
   low intravascular volume or cardiogenic shock. With fluids, BP now 110
   systolic and urine output improving. CVP now 20. Suspect that increase
   in antihypertensives may also have contributed to his low BP. WBC
   normal and patient afebrile with no apparent source of infection. ECG
   without evidence of acute ischemia. With elevated CVP and hypoxemia,
   would now begin to diurese gently. Patient has hardware in his back.
   Possibility of occult infection with nightsweats. Would obtain blood
   cultures but hold antibiotics for now.
   Acute renal failure worrisome for ATN with low BP. The amount of rise
   in creat from baseline suggests this process has been ongoing for
   several days. Urine Na, however, is low suggesting pre-renal azotemia.
   Monitor with improved volume status. Complete bicarb protocol for
   contrast he received.
   Elevated serum potassium probably related to acidosis and low urine
   output. Improving with volume resuscitation. Acidosis has anion gap
   probably related to renal failure.
   Hct down slightly from [**Month (only) 8**]. No evidence of bleeding. Monitor stool
   guaiac. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-7-23**] 03:56 AM
   Arterial Line - [**2122-7-23**] 04:00 AM
   Multi Lumen - [**2122-7-23**] 05:13 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: hob chlorhex
   Communication:  trying to reach son this AM, apparently Neuro spoke to
   him overnight to update
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-07-24 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-7-23**] 09:20 AM
 MAGNETIC RESONANCE IMAGING - At [**2122-7-23**] 11:45 AM
 INVASIVE VENTILATION - STOP [**2122-7-23**] 05:16 PM
 MULTI LUMEN - STOP [**2122-7-23**] 11:01 PM
   Continued to have elevated BP's with low HR during the day.
   Hydralazine 5 mg given x2, continued on propofol for sedation.  MRI
   obtained which showed significant atrophy, no evidence of acute stroke,
   no enhancement with contrast administration.  Extubated at 5 pm,
   uncomplicated.  Post-extubation gas 7.42, 45, 108.  Discussed case with
   neuro, who advised increasing Depakote to anti-epileptic doses -
   loading dose of 1 g, followed by increase in maintenance dosing.
   Overnight stable, moderate agitation earlier in the night, given Zydis
   with good effect.  BP elevated but stable overnight.  Femoral line
   removed.  Given maintenance fluids, given NPO pending speech and
   swallow eval.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-7-23**] 08:00 AM
   Hydralazine - [**2122-7-23**] 04:40 PM
   Heparin Sodium (Prophylaxis) - [**2122-7-24**] 12:29 AM
   Dextrose 50% - [**2122-7-24**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-24**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 70 (47 - 80) bpm
   BP: 138/47(75) {116/46(69) - 197/73(119)} mmHg
   RR: 29 (8 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    558 mL
                                                                    372 mL
   PO:
             TF:
   IVF:
                                                                    508 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    145 mL
   Urine:
                                                                  1,165 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -607 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 336 (336 - 347) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 93%
   ABG: 7.41/51/70/33/5
   Ve: 6 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Cardiovascular: extubated. with tent mask at 10 LNC
   thick cough, however unable to clear secretions
   RRR, no MRG, S1S2 clear
   Abd: +Ve bs, soft, nt, nd, no masses
   ex femoral line site c/d/i no erythema,warmth or swelling
   ext: wwp
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   11.7 g/dL
   83 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   12 mg/dL
   100 mEq/L
   136 mEq/L
   35.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2122-7-23**]  02:02 AM
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
                             [**2122-7-23**]  10:04 AM
                             [**2122-7-23**]  01:34 PM
                             [**2122-7-23**]  04:55 PM
                             [**2122-7-23**]  06:06 PM
                             [**2122-7-24**]  04:24 AM
                             [**2122-7-24**]  04:50 AM
   WBC
   5.2
   4.6
   Hct
   36.6
   35.1
   Plt
   102
   105
   Cr
   0.7
   0.5
   0.6
   TropT
   <0.01
   TCO2
   31
   32
   32
   30
   30
   33
   Glucose
   129
   101
   83
   Other labs: PT / PTT / INR:13.1/30.6/1.1, CK / CKMB /
   Troponin-T:117/5/<0.01, ALT / AST:[**9-17**], Alk Phos / T Bili:42/0.9,
   Differential-Neuts:59.3 %, Band:0.0 %, Lymph:32.8 %, Mono:7.6 %,
   Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:204 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: [**2122-7-24**]. Ventriculomegaly which is although out of proportion
   for sulci with
   dilatation of the temporal horns, is likely due to atrophy in presence
   of
   widening of the choroidal fissure. However, the appearances could still
   be
   consistent with normal pressure hydrocephalus in proper clinical
   setting.
   2. Extensive small vessel disease is seen in the periventricular and
   subcortical white matter and pons.
   3. No evidence of acute infarct or enhancing mass lesion.
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 BRADYCARDIA
   7.41 pCO2
   51 pO2
   70 HCO3
   33 BaseXS
   5
   Assessment & Plan:  80y/o M with a PMH of CAD, HTN, PVD, COPD admitted
   to neurology service for new onset seizure now transferred to MICU
   following bradycardic arrest.
   .
   # Bradycardia
 ? remains whether he brady
d down or actually had
   Asystole.
   Pt has been brady down to 40
s on floor but mostly in 70s.
   TFTs wnl, does have degenerative changes on mri could have resulted in
   seizure activity with subsequent post ictal bradychardia in someone who
   at baseline may have some bradychardia.
    CE wnl, Echo shows severe dCHF but no valvular changes, no global wall
   motion abn accounting for brady.
   EKG showed some QT prolongation
   Repeat EKG
   - Hold atenolol
   # Seizure - Per neurology concern given for complex partial seizure
   with secondary generalization and subsequent mild [**Doctor Last Name 6180**] paralysis on
   admission. Pt was not on monitoring so it is unclear if seizure was an
   inciting event code blue.
   Pt has not had any further noted seizure activity,  EEG deferred thus
   far. Noted to be hypoglycemic, no prior hx DM, insulinoma, or oral
   hypoglycemics but hypoglycemia could cause seizures.
   - On anti-epileptic dose depakote in therapeutic range.
   -Check LFTs
   - Head MRI shows atrophy, degeneration ? NPH
 appreciate neuro recs.
   - continue midazolam for sedation as needed.
   -Dementia: Noted in records as mild however MRI suggests considerable
   disease
 Alzheimers vs NPH included in differential. Pt is
   occasionally agitated, but redirectable, oriented to person,
   disoriented to place/time. Communicate with [**Name (NI) **]/son to determine
   baseline MS.
   # Hypercarbic Respiratory Failure - PCO2 70 in the setting of
   bradycardia, low respiratory rate. Post extubation, blood gases/O2 sat
   have remained wnl, O2 dropped slightly, PCO2 increased slightly,  in am
   in setting of receiving sedatives for agitation.
   CXR this am showed blurring of hemidiaphrams bilaterally, unclear
   whether [**1-5**] to colonic obscuration, vs bilateral effusion, in pt with
   known dCHF but no infiltrate/opacity concerning for PNA/aspiration. Has
   cough, unable to clear secretions post extubation, secretions noted to
   be tan, copious, no leukocytosis/fever
   - Collect sputum Cx
   - Continue tent mask, with transition to NC if tolerated.
   - Repeat ABG if worsening picture.
   # CAD - unclear history of CAD
   -CXR/Echo suggests dCHF. Pt does not have sig edema/JVD/and is net
   fluid negative, hypertension does not appear to be related to fluid
   overload.
   - Repeat ECG in am
   - hold meds which may prolong QT
   .
   # COPD - Per report Pt has a history of COPD, had evidence of CO2
   retention during Code blue event however this was most likely secondary
   to decreased respiratory rate in setting of seizure vs bradycardic
   event
   -hypercarbia resolving.
   -Continue to monitor MS, ABG with clinical changes.
   # FEN
 NPO currently, with pending swallow eval. If passes, can begin
   p.o with clears, restart p.o meds, holding atenolol, psych meds with QT
   prolongation. replete K to 4 and Mg to 2
   Given hypoglycemia, low Sodium, maintenance fluids switched from NS to
   D5, 1/2 NS.
   -Q4 glucose finger sticks.
   # Access -2PIV,A line. Femoral PIV dc
d. Potential transition to floor.
   D/C Aline
   .
   # Code - Full
   .
   # Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-7-23**] 03:56 AM
   Arterial Line - [**2122-7-23**] 04:00 AM
   20 Gauge - [**2122-7-23**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: son
   [**Name (NI) 156**] status: Full code
   Disposition:ICU for now, potentially to neuro

2122-07-24 09:56:00 Physician Attending Progress Note
Chief Complaint: bradycardic arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-7-23**] 09:20 AM
 MAGNETIC RESONANCE IMAGING - At [**2122-7-23**] 11:45 AM
 INVASIVE VENTILATION - STOP [**2122-7-23**] 05:16 PM
 MULTI LUMEN - STOP [**2122-7-23**] 11:01 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-7-24**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2122-7-24**] 08:16 AM
   Dextrose 50% - [**2122-7-24**] 08:16 AM
   Hydralazine - [**2122-7-24**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-24**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 85 (47 - 85) bpm
   BP: 179/64(101) {116/46(69) - 194/72(117)} mmHg
   RR: 33 (8 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    558 mL
                                                                    784 mL
   PO:
             TF:
   IVF:
                                                                    508 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    245 mL
   Urine:
                                                                  1,165 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -607 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 336 (336 - 336) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: 7.43/48/75/33/6
   Ve: 6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen: cachetic
   HEENT: pupils reactive
   CV: RR
   Chest: diminished BS bilat no wheezes
   Abd: soft NT +BS
   Ext: thin, wasted, no edema or rash + pulses
   Neuro: alert, interactive but confused
   Labs / Radiology
   11.7 g/dL
   105 K/uL
   83 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   12 mg/dL
   100 mEq/L
   136 mEq/L
   35.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2122-7-23**]  02:02 AM
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
                             [**2122-7-23**]  10:04 AM
                             [**2122-7-23**]  01:34 PM
                             [**2122-7-23**]  04:55 PM
                             [**2122-7-23**]  06:06 PM
                             [**2122-7-24**]  04:24 AM
                             [**2122-7-24**]  04:50 AM
                             [**2122-7-24**]  07:03 AM
   WBC
   5.2
   4.6
   Hct
   36.6
   35.1
   Plt
   102
   105
   Cr
   0.7
   0.5
   0.6
   TropT
   <0.01
   TCO2
   31
   32
   32
   30
   30
   33
   33
   Glucose
   129
   101
   83
   Other labs: PT / PTT / INR:13.1/30.6/1.1, CK / CKMB /
   Troponin-T:117/5/<0.01, ALT / AST:[**9-17**], Alk Phos / T Bili:42/0.9,
   Differential-Neuts:59.3 %, Band:0.0 %, Lymph:32.8 %, Mono:7.6 %,
   Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:204 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 BRADYCARDIA
   1.       Bradycardia/Arrest: DDx as inciting event seems most likely to
   have been unwitnessed recurrent seizure and then post ictal, but
   atenalol side effect, sick sinus also raised. Currently with adequate
   HR  BP and MAPS. 1^st ecg had qt around 500 so we will repeat
 though
   he has had no events on telemetry in icu
   2.       Tonic Clonic SZ: new onset (he was on Depakote for mood
   disorder not SZ), head CT neg, MRI with sig degenerative changes but no
   acute bleed or infarct. Loaded on IV Depakote and EEG today.
   3.       Resp Failure: extubated well, now on face tent,  try to wean
   O2 but sig secretions- trouble clearing secretions. Pulm toilet oob to
   chair as able
   4.       HTN: off home meds, bump up enalapril and hoe to restart pos
   if passes speech and swallow
   5.       Hypoglycemia: 50-60 while NPO no oral agents, will change to
   D51/2 NS for maintainence.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: speech and swallow
   Glycemic Control:  low sugars trend q2
   Lines:
   18 Gauge - [**2122-7-23**] 03:56 AM
   Arterial Line - [**2122-7-23**] 04:00 AM
   20 Gauge - [**2122-7-24**] 07:16 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with son
   [**Name (NI) 156**] status: Full code
   Disposition : call out

2122-07-25 06:56:00 Physician Resident Progress Note
Chief Complaint:
   80 year-old right-handed man with coronary disease,
   hypertension, peripheral vascular disease, and COPD, status post
   a probable partial seizure with secondary generalization, now
   status post brief cardiac arrest. He was extubated yesterday
   successfully and is recovering well. The etiology of his arrest
   is not clear; possibilities include excessive beta blocker
   effect, cardiac ischemia (although appears to be ruling out for
   MI), or ictal or postictal arrhythmia. At this point he will
   continue to be observed in the MICU until he is stable from a
   hemodynamic point of view.
   24 Hour Events:
 EEG - At [**2122-7-24**] 09:11 AM
 BLOOD CULTURED - At [**2122-7-24**] 01:03 PM
   R radial a-line blood specimen.
 URINE CULTURE - At [**2122-7-24**] 01:47 PM
 BLOOD CULTURED - At [**2122-7-24**] 02:12 PM
 ARTERIAL LINE - STOP [**2122-7-25**] 05:01 AM
 FEVER - 101.5
F - [**2122-7-24**] 12:00 PM
    Pt febrile 102.5AX, pan cultured, CXR repeated, sputum cx. Started
   vanc, pip/tazo, cipro for empiric treatment of pna. Will await culture
   results.
   - talked with family, ok to put NG tube in, no g-tube yet
   - agitated - 10 zyprexa, 10 hydralazine
   EEG done, results pending.
   Fever (Hyperthermia, Pyrexia, not Fever of Unknown Origin)
   Assessment:
   T max 99 this shift
   Action:
   Cont with   IV Zosyn, IV Vanco & IV Cipro
   Response:
   Remains afebrile
   Plan:
   Cont to follow temp and VS curves.  Provide antibx Follow Xray
   results.  ? picc placement [**1-5**] multi PIV infiltrates and multiple IV
   antibiotic needs
   Alteration in Nutrition
   Assessment:
   Pt remained NPO overnight, only IV meds given. Pt BS have been between
   60
s -100
   Action:
   No NGT placement overnight
   Response:
   BS stable, lytes this am k 3.4/ Mag 1.6/ phos 2.7; team aware, awaiting
   orders
   Plan:
   Awaiting decision regarding placement of NGT in this pt.  Dietary recs
   are in place, cont to [**Last Name (un) **] BS closely for hypoglycemia, possible
   dobhoff placement today
   Respiratory failure, acute (not ARDS/[**Doctor Last Name 76**])
   Assessment:
   Pt cont 3L NC, lungs clear bilat, 02 Sats 96-97%,
   Action:
   cont to encourage CDB; pt turned repositioned q2, nebs given q6hr
   Response:
   This am, congetive non productive cough, attempted to get pt to cough
   up secretions, unable to ; pt suctioned  orally for a small thick
   amount yellow secretions
   Plan:
   Cont to encourage CDB and provide freq oral care.
   Dementia (including Alzheimer's, Multi Infarct)
   Assessment:
   Pt became increasingly agitated, confused later in the shift; yelling
   out and wanting to be put to bed; unalble to redirect pt HR 100
s, SbP
   180
s-190
   Action:
   Pt recvd to Zyprexa SL 5mg x two doses for extreme agitation
   Response:
   Pt slept briefly overnight, constantly moving and fidgeting with IV
   and tubing ; remains restrained for protection, Aline d/cd this am due
   to pt constantly pulling and kinking line
   Plan:
   Cont to engage pt freq, re-orient/re-direct as needed.
   .H/O seizure, with status epilepticus
   Assessment:
   No overt seizure activity overnight cont with IV Valproate
   Action:
   No changes to current treatment
   Response:
   Plan:
   Cont to follow pts MS closely, ensure pt safety.  Follow serial
   Valsartan levels as ordered f/u with  EEG results
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-7-24**] 01:30 PM
   Vancomycin - [**2122-7-25**] 02:10 AM
   Ciprofloxacin - [**2122-7-25**] 03:10 AM
   Piperacillin - [**2122-7-25**] 04:34 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2122-7-24**] 08:16 AM
   Famotidine (Pepcid) - [**2122-7-24**] 08:00 PM
   Hydralazine - [**2122-7-24**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-7-25**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-7-25**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.7
   HR: 86 (70 - 103) bpm
   BP: 144/66(86) {118/49(69) - 174/100(113)} mmHg
   RR: 30 (24 - 55) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,413 mL
                                                                    636 mL
   PO:
             TF:
   IVF:
                                                                  2,338 mL
                                                                    636 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    280 mL
   Urine:
                                                                    810 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,603 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/48/75/28/6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   12.1 g/dL
   183 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   9 mg/dL
   96 mEq/L
   135 mEq/L
   36.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
                             [**2122-7-23**]  10:04 AM
                             [**2122-7-23**]  01:34 PM
                             [**2122-7-23**]  04:55 PM
                             [**2122-7-23**]  06:06 PM
                             [**2122-7-24**]  04:24 AM
                             [**2122-7-24**]  04:50 AM
                             [**2122-7-24**]  07:03 AM
                             [**2122-7-25**]  04:31 AM
   WBC
   5.2
   4.6
   8.6
   Hct
   36.6
   35.1
   36.7
   Plt
   102
   105
   112
   Cr
   0.7
   0.5
   0.6
   0.7
   TropT
   <0.01
   TCO2
   32
   32
   30
   30
   33
   33
   Glucose
   129
   101
   83
   183
   Other labs: PT / PTT / INR:13.3/31.1/1.1, CK / CKMB /
   Troponin-T:117/5/<0.01, ALT / AST:[**9-17**], Alk Phos / T Bili:42/0.9,
   Differential-Neuts:59.3 %, Band:0.0 %, Lymph:32.8 %, Mono:7.6 %,
   Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:204 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: Compared to yesterday, poor inspiration,
    heart borders blurry R>L,
   bilateral hemidiaphrams obscured, evolution of LLL patchy/flully area
   into  ? infiltrate, opacity with fluids given
   Microbiology: Blood Cx, urine Cx Px2, MRSA screen P
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 BRADYCARDIA
   80 year-old right-handed man with coronary disease,
   hypertension, peripheral vascular disease, and COPD, status post
   a probable partial seizure with secondary generalization, now
   status post brief cardiac arrest. He was extubated yesterday
   successfully and is recovering well. The etiology of his arrest
   is not clear; possibilities include excessive beta blocker
   effect, cardiac ischemia (although appears to be ruling out for
   MI), or ictal or postictal arrhythmia. At this point he will
   continue to be observed in the MICU until he is stable from a
   hemodynamic point of view.
   Assessment & Plan:  80y/o M with a PMH of CAD, HTN, PVD, COPD admitted
   to neurology service for new onset seizure now transferred to MICU
   following bradycardic arrest.
   .
   # Bradycardia
 ? remains whether he brady
d down or actually had
   Asystole.
   Pt has been brady down to 40
s on floor but mostly in 70s.
   TFTs wnl, does have degenerative changes on mri could have resulted in
   seizure activity with subsequent post ictal bradychardia in someone who
   at baseline may have some bradychardia.
    CE wnl, Echo shows severe dCHF but no valvular changes, no global wall
   motion abn accounting for brady.
   EKG showed some QT prolongation
   Repeat EKG
   - Hold atenolol
   # Seizure - Per neurology concern given for complex partial seizure
   with secondary generalization and subsequent mild [**Doctor Last Name 6180**] paralysis on
   admission. Pt was not on monitoring so it is unclear if seizure was an
   inciting event code blue.
   Pt has not had any further noted seizure activity,  EEG deferred thus
   far. Noted to be hypoglycemic, no prior hx DM, insulinoma, or oral
   hypoglycemics but hypoglycemia could cause seizures.
   - On anti-epileptic dose depakote in therapeutic range.
   -Check LFTs
   - Head MRI shows atrophy, degeneration ? NPH
 appreciate neuro recs.
   - continue midazolam for sedation as needed.
   -Dementia: Noted in records as mild however MRI suggests considerable
   disease
 Alzheimers vs NPH included in differential. Pt is
   occasionally agitated, but redirectable, oriented to person,
   disoriented to place/time. Communicate with [**Name (NI) **]/son to determine
   baseline MS.
   # Hypercarbic Respiratory Failure - PCO2 70 in the setting of
   bradycardia, low respiratory rate. Post extubation, blood gases/O2 sat
   have remained wnl, O2 dropped slightly, PCO2 increased slightly,  in am
   in setting of receiving sedatives for agitation.
   CXR this am showed blurring of hemidiaphrams bilaterally, unclear
   whether [**1-5**] to colonic obscuration, vs bilateral effusion, in pt with
   known dCHF but no infiltrate/opacity concerning for PNA/aspiration. Has
   cough, unable to clear secretions post extubation, secretions noted to
   be tan, copious, no leukocytosis/fever
   - Collect sputum Cx
   - Continue tent mask, with transition to NC if tolerated.
   - Repeat ABG if worsening picture.
   # CAD - unclear history of CAD
   -CXR/Echo suggests dCHF. Pt does not have sig edema/JVD/and is net
   fluid negative, hypertension does not appear to be related to fluid
   overload.
   - Repeat ECG in am
   - hold meds which may prolong QT
   .
   # COPD - Per report Pt has a history of COPD, had evidence of CO2
   retention during Code blue event however this was most likely secondary
   to decreased respiratory rate in setting of seizure vs bradycardic
   event
   -hypercarbia resolving.
   -Continue to monitor MS, ABG with clinical changes.
   # FEN
 NPO currently, with pending swallow eval. If passes, can begin
   p.o with clears, restart p.o meds, holding atenolol, psych meds with QT
   prolongation. replete K to 4 and Mg to 2
   Given hypoglycemia, low Sodium, maintenance fluids switched from NS to
   D5, 1/2 NS.
   -Q4 glucose finger sticks.
   # Access -2PIV,A line. Femoral PIV dc
d. Potential transition to floor.
   D/C Aline
   .
   # Code - Full
   .
   # Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-7-25**] 06:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-07-25 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2122-7-24**] 09:11 AM
 BLOOD CULTURED - At [**2122-7-24**] 01:03 PM
   R radial a-line blood specimen.
 URINE CULTURE - At [**2122-7-24**] 01:47 PM
 BLOOD CULTURED - At [**2122-7-24**] 02:12 PM
 ARTERIAL LINE - STOP [**2122-7-25**] 05:01 AM
 FEVER - 101.5
F - [**2122-7-24**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-7-24**] 01:30 PM
   Vancomycin - [**2122-7-25**] 02:10 AM
   Ciprofloxacin - [**2122-7-25**] 03:10 AM
   Piperacillin - [**2122-7-25**] 04:34 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2122-7-24**] 08:30 PM
   Famotidine (Pepcid) - [**2122-7-25**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2122-7-25**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2122-7-25**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.7
C (98.1
   HR: 96 (72 - 103) bpm
   BP: 134/72(88) {118/49(69) - 174/100(113)} mmHg
   RR: 29 (23 - 55) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,413 mL
                                                                    759 mL
   PO:
             TF:
   IVF:
                                                                  2,338 mL
                                                                    759 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    585 mL
   Urine:
                                                                    810 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,603 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, appears
   stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   112 K/uL
   183 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   9 mg/dL
   96 mEq/L
   135 mEq/L
   36.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2122-7-23**]  02:18 AM
                             [**2122-7-23**]  04:33 AM
                             [**2122-7-23**]  10:04 AM
                             [**2122-7-23**]  01:34 PM
                             [**2122-7-23**]  04:55 PM
                             [**2122-7-23**]  06:06 PM
                             [**2122-7-24**]  04:24 AM
                             [**2122-7-24**]  04:50 AM
                             [**2122-7-24**]  07:03 AM
                             [**2122-7-25**]  04:31 AM
   WBC
   5.2
   4.6
   8.6
   Hct
   36.6
   35.1
   36.7
   Plt
   102
   105
   112
   Cr
   0.7
   0.5
   0.6
   0.7
   TropT
   <0.01
   TCO2
   32
   32
   30
   30
   33
   33
   Glucose
   129
   101
   83
   183
   Other labs: PT / PTT / INR:13.3/31.1/1.1, CK / CKMB /
   Troponin-T:117/5/<0.01, ALT / AST:[**9-17**], Alk Phos / T Bili:42/0.9,
   Differential-Neuts:59.3 %, Band:0.0 %, Lymph:32.8 %, Mono:7.6 %,
   Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:204 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   ARREST (Bradycardia) -- attributed to unwitnessed seizure (post-ical
   bradycardia) rather than primary cardiac event (although consider
   medication effect or SSS).  Currently HR  BP and MAP adequate.  Monitor
   ECG 1st ecg had qt around 500 so we will repeat
 though he has had no
   events on telemetry in icu
   BRADYCARDIA
 ascribed to b-blocker use.  [**Month (only) 8**] require further
   evaluation (ie. SSS), esp. if recurs.  Monitor.
   SEIZURE -- (Tonic Clonic SZ), new onset (he was on Depakote for mood
   disorder not SZ), head CT neg, MRI with sig degenerative changes but no
   acute bleed or infarct.  Continue Depakote and check EEG results.
   RESPIRATORY FAILURE -- extubated, and remains extubated.  Currently
   stable on nasal cannula, but with significant secretions (requires
   suctinoing).
   FEVER -- attributed to aspiration pneumonia.  Await culture results.
   Monitor CXR.  Continue empirical antimicrobials.
   HTN -- monitor off home meds; adjust medications.
   HYPOGLYCEMIA --  50-60 while NPO no oral agents, will change to D51/2
   NS for maintainence.
   LOW Mg, K, PO4
 replete iv.
   NUTRITIONAL SUPPORT -- NPO (failed speech and swallow study).  Would
   begin TF, and reassess over next several days.  If remains NPO with
   poor swallowing, need to discuss PEG.
   Remaining plans as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-7-25**] 06:29 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill